US07592477B2
Step d) Formation of tert-butyl 4-{[(dodecanimidoylamino)oxy]carbonyl}benzyl[4-(trifluoromethyl)benzyl]carbamate
To a solution of 4-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)-benzoic acid (102 mg, 0.25 mmol), N-hydroxydodecanimidamide (70 mg, 0.33 mmol) and DMAP (3 mg, 0.03 mmol) in anhydrous DCM (15 mL) was added EDC (62 mg, 0.33 mmol) and the resulting reaction mixture was stirred at RT for 14 h. Evaporation of the solvents gave an oil. This crude product was purified by column chromatography over silica gel (AcOEt/c-Hex 80/20) to give the title compound as a colorless oil (36 mg, 24%). 1H NMR (CDCl3, 300 MHz) δ 8.01 (d, J=8.1 Hz, 2H), 7.60 (d, J=8.1 Hz, 2H), 7.40-7.20 (m, 4H), 4.88 (br s, 2H), 4.51 (s, 2H), 4.42 (s, 2H), 2.36 (t, J=8.2 Hz, 2H), 1.75-1.59 (m, 2H), 1.49 (s, 9H), 1.45-1.16 (m, 16H), 0.89 (t, J=7.0 Hz, 3H). HPLC (Condition A), Rt: 5.42 min (HPLC purity: 96.1%).

reactant | 4-({(tert-butoxycarbonyl)[4-(trifluoromethyl)benzyl]amino}methyl)-benzoic acid | 0.25 mmol, 102 mg | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C(=O)O)C=C1 | C21H22F3NO4
reactant | N-hydroxydodecanimidamide | 0.33 mmol, 70 mg | ONC(CCCCCCCCCCC)=N | C12H26N2O
reactant | EDC | 0.33 mmol, 62 mg
catalyst | DMAP | 0.03 mmol, 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{[(dodecanimidoylamino)oxy]carbonyl}benzyl[4-(trifluoromethyl)benzyl]carbamate | 36 mg, 24% | C(CCCCCCCCCCC)(=N)NOC(=O)C1=CC=C(CN(C(OC(C)(C)C)=O)CC2=CC=C(C=C2)C(F)(F)F)C=C1 | C33H46F3N3O4
